US07834002B2
The above compound was also prepared as follows: To a solution of 50.02 g of methyl 3-(6-hydroxymethylpyridin-2-yl)-trans-acrylate in IPA 502 mL, was added 2.51 g of 5% palladium-carbon (containing 50% water) under argon atmosphere, the reaction mixture was stirred under 1-4 atom hydrogen atmosphere at 50° C. for 2.5 hours. After cooling, the catalyst was filtrated off and the solvent was removed off under reduced pressure from the reaction mixture, which gave 50 g of methyl 3-(6-hydroxymethylpyridin-2-yl)propionate as a brown oil.

reactant | methyl 3-(6-hydroxymethylpyridin-2-yl)-trans-acrylate | 50.02 g | OCC1=CC=CC(=N1)/C=C/C(=O)OC | C10H11NO3
reactant | hydrogen | [H][H] | H2
solvent | IPA | 502 mL | CC(C)O | C3H8O
catalyst | palladium-carbon | 2.51 g | [C].[Pd]
product | methyl 3-(6-hydroxymethylpyridin-2-yl)propionate | 50 g | OCC1=CC=CC(=N1)CCC(=O)OC | C10H13NO3
